US07271262B2
239E. {3-[3-(4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonyl)-phenyl]-prop-2-ynyl}-carbamic acid tert-butyl ester
The title compound was prepared from {3-[3-(4-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonyl)-phenyl]-prop-2-ynyl}-carbamic acid tert-butyl ester (452 mg, 0.94 mmol) by a procedure analogous to that described for (4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-nitro-phenyl)methanone. MS: 460.3/360.3 (MH+); HPLC Rf: 6.45 min. (HPLC method 4).

reactant | {3-[3-(4-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonyl)-phenyl]-prop-2-ynyl}-carbamic acid tert-butyl ester | 0.94 mmol, 452 mg | C(C)(C)(C)OC(NCC#CC1=CC(=CC=C1)C(=O)C1=CN(C=2N=CN=C(C21)Cl)C2CCCC2)=O | C26H27ClN4O3
reactant | (4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-nitro-phenyl)methanone | NC=1C2=C(N=CN1)N(C=C2C(=O)C2=CC(=CC=C2)[N+](=O)[O-])C2CCCC2 | C18H17N5O3
product | {3-[3-(4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonyl)-phenyl]-prop-2-ynyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC#CC1=CC(=CC=C1)C(=O)C1=CN(C=2N=CN=C(C21)N)C2CCCC2)=O | C26H29N5O3
